US09376441B2
6-chloro-1H-pyrrolo[3,2-c]pyridine (1 g, 6.6 mmol) was dissolved in DMF (5 mL) under Ar and the solution was cooled in an ice water bath. A 1 M solution of NaHMDS in THF (7.5 mL, 7.5 mmol) was added over 1.5 min and the reaction mixture was stirred 20 min. (2-(chloromethoxy)ethyl)trimethylsilane (1.3 mL, 7.5 mmol) was then added and the reaction mixture was stirred for 2 h. The mixture was then diluted with water and DCM, and the aqueous phase was extracted with DCM (2×). The combined organic phase was washed with brine, dried over Na2SO4, filtered, and concentrated to afford a crude residue that was purified by silica gel chromatography (0-50% EtOAc in hexanes) to afford 6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[3,2-c]pyridine. LCMS-ESI+ (m/z): [M+H]+ calcd for C13H20ClN2OSi: 283.10; found: 283.03.

reactant | 6-chloro-1H-pyrrolo[3,2-c]pyridine | 6.6 mmol, 1 g | ClC1=CC2=C(C=N1)C=CN2 | C7H5ClN2
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | THF | 7.5 mmol, 7.5 mL | C1CCOC1 | C4H8O
reactant | (2-(chloromethoxy)ethyl)trimethylsilane | 7.5 mmol, 1.3 mL | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrrolo[3,2-c]pyridine | ClC1=CC2=C(C=N1)C=CN2COCC[Si](C)(C)C | C13H19ClN2OSi
